Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
gabapentin
 
Attending: ___
 
Chief Complaint:
left hemiparesis/AMS
 
Major Surgical or Invasive Procedure:
___ Right burr holes for ___ evacuation

 
History of Present Illness:
___ yo F ___ speaking who fell on a flight to ___ In ___. 
Pt was dazed for a minute or so after fall down 4 steps. At that 
time she was imaged at ___ and imaging was reportedly negative. 
Today she presented to pain clinic for L4-5 epidural steroid 
injection for her lumbar radiculopathy. Post injection
she was unable to walk and was referred to the ED for difficulty 
standing, left arm weakness and  urinary incontinence - she 
states she can't make it to the bathroom in time. Daughter says 
she has at least 10 days of left arm and hand weakness. Pt says 
it has been longer but can't clarify the timing. Pt reports 
daily HA since her fall.  In the fall she also hurt her right 
shoulder
which continues to be a source of pain. Initially in the ED she 
was seen as a code cord. Spinal imaging did not correlated with 
weakness and so Brain imaging was obtained. CT head demonstrated 
mixed density SDH bilaterally with acute components bilaterally, 
right larger than left with mass effect and 3mm right to left 
shift. Neurosurgery was consulted for management. 
 
Past Medical History:
Fibromyalgia
Depression
Trigger finger
HTN
Lumbar radiculopathy
Macular hole
Cataracts
 
Social History:
___
Family History:
N/A
 
Physical Exam:
On Admission:

Gen: WD/WN, comfortable, NAD.
HEENT: normocephalic, atraumatic
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. + left pronator drift

      Trap Deltoid Bicep Tricep Grip WE
Right 5    5       5     5      5    5 *right arm painful with
movement
Left  5    4       5     5      4    4
      IP Quad Ham AT ___
Right 5  5    ___  5
Left  5  5    ___  5
Overall she is very slow to move the left arm and leg.  The leg
has full strength but she requires prompting to complete tasks.

Sensation: Intact to light touch bilaterally.

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

Handedness Right

============================================

Tmax 98.1, HR 45-65, BP 95-115/45-65, RR ___, SpO2 98-100% RA

Bowel Regimen: [x]Yes [ ]No  Last BM: ___

Exam: **Speaks ___- nurse at bedside to translate for exam**

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time - uses calendar at
bedside for reference
Follows commands: [x]Simple [ ]Complex [ ]None

Pupils:  Right   ___       Left surgical pupil, reactive 

EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Pronator Drift: [ ]Yes [x]No 
Speech Fluent: [x]Yes [ ]No
Comprehension intact: [x]Yes []No

Motor:
TrapDeltoidBicepTricepGrip
___
Left5       5       5       5       4+

IPQuadHamATEHLGast
Right___
Left5       5       5       5       5       5

[x]Sensation intact to light touch

Wound: Incision C/D/I. Closed with staples. 

 
Pertinent Results:
___ 08:50AM BLOOD WBC-7.1 RBC-4.51 Hgb-13.2 Hct-41.6 MCV-92 
MCH-29.3 MCHC-31.7* RDW-13.7 RDWSD-46.5* Plt ___
___ 08:50AM BLOOD ___ PTT-27.1 ___
___ 08:50AM BLOOD Glucose-100 UreaN-12 Creat-0.5 Na-140 
K-4.5 Cl-104 HCO3-25 AnGap-11
___ 02:21PM BLOOD ALT-12 AST-20 AlkPhos-69 TotBili-0.3
___ 06:10AM BLOOD %HbA1c-5.7 eAG-117
___ 06:10AM BLOOD LDLmeas-78

Please see OMR for further pertinent lab and imaging results.
 
Brief Hospital Course:
___ yo female presents for left hemiparesis and AMS, found to 
have bilateral mixed density SDH, right greater than left.

#Bilateral SDH
Pt admitted to ___ and brought to the OR ___ for right burr 
holes and SDH evacuation. Patient recovered in the PACU and then 
was transferred to the ___ overnight. On POD1 patient was doing 
well and was getting out of bed to chair. On POD 2 patient's 
dressing was removed and incision looked clean, dry and intact; 
closed with staples. She was changed to floor status on POD 3. 
Patient remained neurologically stable for the remainder of her 
stay. 

#Left Hemiparesis
Neuro stroke was consulted for left hemiparesis who recommend 
60min EEG and MRI brain with and without contrast. EEG showed 
non-epileptiform discharges; she continued on Keppra x7 days per 
Dr. ___. MRI showed tiny questionable infarct. 
Neurology recommended starting on Atorvastatin and recommended 
Ziopatch for monitoring upon discharge. Plan to follow up with 
Neurology as outpatient in ___ months. 

#Urinary frequency
Patient complained of urinary frequency on ___. UA was 
negative. 

#Dispo
-Patient worked with ___ and OT who recommended rehab placement 
as patient was not stable with walking and needed to be prompted 
to use left leg.
 
Medications on Admission:
Medications prior to admission:
ATOVAQUONE-PROGUANIL 250-100 eye drops 
NORTRIPTYLINE - nortriptyline 10 mg capsule. 1 capsule(s) by
mouth at bedtime
 
Medications - OTC
NAPHAZOLINE-PHENIRAMINE [NAPHCON-A] - Naphcon-A 0.025 %-0.3 % 
eye
drops. ___ drops 
 
Discharge Medications:
Patient may restart home medications. However, HOLD ALL systemic 
anticoagulation and antiplatelets until cleared by neurosurgery; 
no NSAIDs. OK for SQH for DVT prophylaxis. 

1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Atorvastatin 20 mg PO QPM  
3.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Second Line  
4.  Docusate Sodium 100 mg PO BID  
5.  Heparin 5000 UNIT SC BID  
6.  LevETIRAcetam 500 mg PO BID Duration: 7 Days 
End date: ___  
7.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - First Line  

8.  Polyethylene Glycol 17 g PO DAILY  
9.  Senna 17.2 mg PO HS  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___ and ___-Acute Care)
 
Discharge Diagnosis:
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Brain Hemorrhage with Surgery

Surgery
• You underwent a surgery called burr holes to have blood 
removed from your brain. 
• Please keep your staples along your incision dry until they 
are removed.
• It is best to keep your incision open to air but it is ok to 
cover it when outside. 
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
• You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
• Headache is one of the most common symptoms after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___